US07294635B2
1-(5-chlorothiophen-2-ylsulfonyl)-3-(4-(5,7-difluoro-6-(methylamino)-1-oxo-3,4-dihydroisoquinolin-2(1H)-yl)phenyl)urea
To a solution of 1-(5-chlorothiophen-2-ylsulfonyl)-3-(4-(7-fluoro-6-(methylamino)-1-oxo-3,4-dihydroisoquinolin-2(1H)-yl)phenyl)urea (17 mg, 0.033 mmol) in DMF (2 mL) at room temperature, selectFluor (1-(chloromethyl)-4-fluoro-1,4-diazoniabicyclo[2.2.2]octanebis(tetrafluoroborate), 32 mg, 0.090 mmol) was added. After being stirred at room temperature for 1 h, the reaction mixture was concentrated in vacuo. The residue was purified by RP-HPLC to give the titled compound as a powder (1 mg). ES-MS (M+H)+=527, 529 (Cl pattern).

reactant | 1-(5-chlorothiophen-2-ylsulfonyl)-3-(4-(7-fluoro-6-(methylamino)-1-oxo-3,4-dihydroisoquinolin-2(1H)-yl)phenyl)urea | 0.033 mmol, 17 mg | ClC1=CC=C(S1)S(=O)(=O)NC(=O)NC1=CC=C(C=C1)N1C(C2=CC(=C(C=C2CC1)NC)F)=O | C21H18ClFN4O4S2
reactant | selectFluor | 0.090 mmol, 32 mg | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-(5-chlorothiophen-2-ylsulfonyl)-3-(4-(5,7-difluoro-6-(methylamino)-1-oxo-3,4-dihydroisoquinolin-2(1H)-yl)phenyl)urea | 1 mg | ClC1=CC=C(S1)S(=O)(=O)NC(=O)NC1=CC=C(C=C1)N1C(C2=CC(=C(C(=C2CC1)F)NC)F)=O | C21H17ClF2N4O4S2
